US04093812
Add 9.4 g of phosphorus oxychloride dropwise to 16.4 g of anhydrous dimethylformamide at from 10° to 20° C and then stir the obtained reaction mixture for 30 minutes at room temperature before adding thereto (from 35° to 40° C) 5.0 g of 5-nitro-2-acetylfuran-(2-pyridyl)hydrazone. Stir the thus-prepared admixture for 28 hours under nitrogen at this temperature and then pour it and a solution comprising 4-pyrazolylmethylenedimethylammonium salt onto 250 g of ice and water. Heat the resulting reaction mixture for 2 hours at from 30° to 40° C, draw off the formed precipitate and wash the precipitate with water to obtain a 45% yield of 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxaldehyde [m.p. 191° to 191.5° C (from toluene)].

reactant | phosphorus oxychloride | 9.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 16.4 g | CN(C=O)C | C3H7NO
reactant | 5-nitro-2-acetylfuran-(2-pyridyl)hydrazone | 5.0 g | N1=C(C=CC=C1)NN=C(C)C=1OC(=CC1)[N+](=O)[O-] | C11H10N4O3
reactant | 4-pyrazolylmethylenedimethylammonium | N1N=CC(=C1)C=[N+](C)C
solvent | water | O | H2O
product | 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxaldehyde | 45% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=NC=CC=C1 | C13H8N4O4
